Common-Emmiter Amplifier
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 4:37:38 PM

*Schematic Netlist:
C1 IN B 0.01uF
C2 C OUT 0.01uF
C3 E 0 0.01uF
Q1 C B E 2N2222A
R1 VCC B 18k
R2 VCC C 675
R3 B 0 3.3k
R4 E 0 200
R5 OUT 0 10k
V1 IN 0 DC 0V SIN(0 240mV 6kHz 0 0) AC 1V 0V
V2 VCC 0 15V

.SAVE 0 B C E IN OUT VCC V1#branch V2#branch @V1[z] @V2[z] @C1[i] @C2[i] @C3[i]
.SAVE @Q1[ib] @Q1[ic] @Q1[ie] @R1[i] @R2[i] @R3[i] @R4[i] @R5[i] @C1[p] @C2[p] @C3[p]
.SAVE @Q1[p] @R1[p] @R2[p] @R3[p] @R4[p] @R5[p] @V1[p] @V2[p]

*PLOT TRAN -1 1 A=C A=IN A=OUT
*PLOT OP -1 1 A=C A=IN A=OUT

*Selected Circuit Analyses:
.TRAN 4.167E-6 0.0008333 0 4.167E-6
.OP

*Models and Subcircuit:
.MODEL 2N2222A NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11 NE=2 BR=4
+ VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11 TF=3.97E-10 CJC=1.52E-11
+ TR=8.5E-8 XTB=1.5 )

.END
